US04360525
(d) 5-chloro-2-fluoro-N-(2-trifluoracetylaminophenyl)-N-(1-methyl-4-piperidinyl)-benzamide
100 ml trifluoracetic acid anhydride are added dropwise to a solution of 20.0 g 5-chloro-2-fluoro-N-(1-methyl-4-piperidinyl)-N-(2-aminophenyl)-benzamide in 200 ml of pyridine and the temperature is kept under 12°. Thereafter the mixture is left overnight at room temperature. The mixture is then evaporated in vacuo and the residue partitioned between diluted aqueous sodium carbonate and methylene chloride. The organic phase is dried, treated with charcoal and evaporated. The residue is recrystallised from diethyl ether/petroleum ether to give the heading compound, m.p. 153°-154°.

reactant | trifluoracetic acid anhydride | 100 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 5-chloro-2-fluoro-N-(1-methyl-4-piperidinyl)-N-(2-aminophenyl)-benzamide | 20.0 g | ClC=1C=CC(=C(C(=O)N(C2=C(C=CC=C2)N)C2CCN(CC2)C)C1)F | C19H21ClFN3O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 5-chloro-2-fluoro-N-(2-trifluoracetylaminophenyl)-N-(1-methyl-4-piperidinyl)-benzamide | ClC=1C=CC(=C(C(=O)N(C2CCN(CC2)C)C2=C(C=CC=C2)NC(C(F)(F)F)=O)C1)F | C21H20ClF4N3O2
